US05721230
To 40 g (114 mmol) of 6,7,8,9-tetrahydropyrido[1,2-a]indole-8(S)-carboxylic acid l-menthyl ester were added 50 ml of concentrated sulfuric acid and the mixture obtained was stirred until all starting material had dissolved (about 20 minutes). The solution was poured carefully into 1500 ml of ice-water and the resulting precipitate was filtered off, washed with petroleum ether/toluene (3:1) and dried to give 24.2 g of 6,7,8,9-tetrahydropyrido[1,2-a]indole-8(S)-carboxylic acid as a white solid of melting point 251°-253° C.

reactant | 6,7,8,9-tetrahydropyrido[1,2-a]indole-8(S)-carboxylic acid l-menthyl ester | 114 mmol, 40 g | C1(CCC(CC1)C(C)C)(C)OC(=O)[C@@H]1CC=2N(C3=CC=CC=C3C2)CC1 | C23H31NO2
reactant | sulfuric acid | 50 ml | S(O)(O)(=O)=O | H2O4S
product | 6,7,8,9-tetrahydropyrido[1,2-a]indole-8(S)-carboxylic acid | 24.2 g | C1=C2C=C3N(C2=CC=C1)CC[C@@H](C3)C(=O)O | C13H13NO2
